US08541588B2
4-[2-(2-aminopyridin-4-yl)-4-chlorophenoxy]-5-chloro-2-fluoro-N-1,3,4-thiadiazol-2-ylbenzenesulfonamide
The title compound was prepared from 2-(2-aminopyridin-4-yl)-4-chlorophenol, (Preparation 721) and 5-chloro-N-(2,4-dimethoxybenzyl)-2,4-difluoro-N-1,3,4-thiadiazol-2-ylbenzenesulfonamide (Preparation 247) using a method analogous to that used in Preparation 669. Purification by semi-preparative HPLC using 15-100% MeOH/H2O yielded the title compound.

reactant | 2-(2-aminopyridin-4-yl)-4-chlorophenol | NC1=NC=CC(=C1)C1=C(C=CC(=C1)Cl)O | C11H9ClN2O
reactant | 5-chloro-N-(2,4-dimethoxybenzyl)-2,4-difluoro-N-1,3,4-thiadiazol-2-ylbenzenesulfonamide | ClC=1C(=CC(=C(C1)S(=O)(=O)N(C=1SC=NN1)CC1=C(C=C(C=C1)OC)OC)F)F | C17H14ClF2N3O4S2
product | 4-[2-(2-aminopyridin-4-yl)-4-chlorophenoxy]-5-chloro-2-fluoro-N-1,3,4-thiadiazol-2-ylbenzenesulfonamide | NC1=NC=CC(=C1)C1=C(OC2=CC(=C(C=C2Cl)S(=O)(=O)NC=2SC=NN2)F)C=CC(=C1)Cl | C19H12Cl2FN5O3S2
